US06124281
(d) Ethyl 3-phenyl-4-(4-chloro-2-nitrobenzoyl)-1H-pyrazole-5-carboxylate
To a solution of dry pyridine (0.237 g, 300 mmol) in anhydrous methylene chloride (5 mL) was slowly added chromium trioxide (0.15 g, 1.5 mmol) to give a wine colored mixture which was stirred at room temperature for 10 minutes. A solution of ethyl 3-phenyl4[(4-chloro-2-nitrophenyl)-(hydroxy)methyl]-1H-pyrazole-5-carboxylate (0.10 g, 0.25 mmol) in anhydrous methylene chloride (2 mL) was added to the wine red mixture in three portions over 25 minutes. The reaction mixture was stirred at room temperature for 18 hours. The reaction mixture was filtered and the filtrate extracted with 3×20 mL 3N HCl. The combined organic extracts were dried with sodium sulfate and concentrated via rotary evaporation to give an oil (0.1 g) which was triturated with hexane:ethyl acetate (4:1) to give the title compound as a tan solid (0.075 g, 75%).

reactant | pyridine | 300 mmol, 0.237 g | N1=CC=CC=C1 | C5H5N
reactant | ethyl 3-phenyl4[(4-chloro-2-nitrophenyl)-(hydroxy)methyl]-1H-pyrazole-5-carboxylate | 0.25 mmol, 0.10 g | C1(=CC=CC=C1)C1=NNC(=C1C(O)C1=C(C=C(C=C1)Cl)[N+](=O)[O-])C(=O)OCC | C19H16ClN3O5
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | chromium trioxide | 1.5 mmol, 0.15 g | [O-2].[O-2].[O-2].[Cr+6]
product | Ethyl 3-phenyl-4-(4-chloro-2-nitrobenzoyl)-1H-pyrazole-5-carboxylate | 0.1 g | C1(=CC=CC=C1)C1=NNC(=C1C(C1=C(C=C(C=C1)Cl)[N+](=O)[O-])=O)C(=O)OCC | C19H14ClN3O5
